US04259352
Preparation of ethyl 4-[(2-methylcyclopentyl)methylamino]-phenylacetate
To a cold (-20°) stirred solution of 10.8 g. 1-hydroxymethyl-2-methylcyclopentane prepared by lithium aluminum hydride reduction of methyl 2-methylcyclopentanecarboxylate and 13.4 ml. triethylamine in 300 ml. ether is added dropwise 5.6 ml. methanesulfonyl chloride in 5 ml. of either. After addition is completed, the solution is warmed to room temperature, stirred for 30 minutes and filtered directly into a solution of 23.1 g. ethyl 4-aminophenyl acetate in 100 ml. ether. After 17 hours at room temperature, the precipitate is filtered and washed with several portions of methylene chloride. The organic solution is washed twice with 100 ml. water, 100 ml. brine, dried and evaporated. The tan residue is crystallized from ethanol and from acetonitrile to yield the title compound as white crystals.

reactant | 1-hydroxymethyl-2-methylcyclopentane | OCC1C(CCC1)C | C7H14O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-methylcyclopentanecarboxylate | CC1C(CCC1)C(=O)OC | C8H14O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | ethyl 4-[(2-methylcyclopentyl)methylamino]-phenylacetate | CC1C(CCC1)CNC1=CC=C(C=C1)CC(=O)OCC | C17H25NO2
